US09120756B2
7.2 Synthesis of 4-(cyclopropylethynyl)-3-fluoroaniline (Employed for the Synthesis of Example Compound No. 139)
To a stirred solution of 4-iodo 3-fluoro aniline (2.25 g, 9.49 mmol) in THF (25 ml) at 0° C. to −5° C., CuI (90 mg, 0.47 mmol) and Et3N (3.5 ml, 25.62 mmol) were added. The reaction mixture was deoxygenated by purging with a stream of Argon for 30 minutes at −5° C. Addition of Pd(dppf)Cl2.CH2Cl2 (346 mg, 0.47 mmol) and purging was continued. After 10 minutes, cyclopropyl acetylene (0.72 ml, 8.54 mmol) was added at −5° C. and stirred at room temperature for 16 h. The reaction mixture was diluted with ether (200 mL), filtered through celite pad, washed with ether (2×25 mL). The filtrate was concentrated and the residue purified by column chromatography (100-200 mesh silica gel) using hexane as eluent to afford title compound as pale brown liquid (750 mg, 45%).

reactant | 4-iodo 3-fluoro aniline | 9.49 mmol, 2.25 g | IC1=C(C=C(N)C=C1)F | C6H5FIN
reactant | Et3N | 25.62 mmol, 3.5 ml | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 0.47 mmol, 346 mg | C(Cl)Cl | CH2Cl2
reactant | cyclopropyl acetylene | 8.54 mmol, 0.72 ml | C1(CC1)C#C | C5H6
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
catalyst | CuI | 0.47 mmol, 90 mg | [Cu]I
product | 4-(cyclopropylethynyl)-3-fluoroaniline | 750 mg, 45% | C1(CC1)C#CC1=C(C=C(N)C=C1)F | C11H10FN
